US08404722B2
Preparation of methyl 2-(N-benzyl-4-nitrobenzamido)-2-phenylacetate (1c):
to a solution of methyl 2-(benzylamino)-2-phenylacetate (4.818 g, 18.9 mmol) and pyridine (15.3 ml, 189 mmol) in 75 mL dichloromethane cooled by an ice bath was added 4-nitrobenzoyl chloride (3.50 g, 18.9 mmol) all at once. The cold bath was removed and the reaction stirred to room temperature. The reaction was stirred at room temperature for four hours then concentrated under reduced pressure, taken up in 100 mL heptane and concentrated under reduced pressure. The concentrate was partitioned between 100 mL dichloromethane and 100 mL water. The organic separation was washed with 50 mL brine then stirred over magnesium sulfate, filtered and the filtrate concentrated under reduced pressure to afford a colorless oil. The product was purified by chromatography on silica, eluting with 10-30% ethyl acetate in hexane to afford a colorless foamy solid (7.37 g, 96%). ESI+ m/z=405.1 [MH]+.

reactant | methyl 2-(benzylamino)-2-phenylacetate | 18.9 mmol, 4.818 g | C(C1=CC=CC=C1)NC(C(=O)OC)C1=CC=CC=C1 | C16H17NO2
reactant | pyridine | 189 mmol, 15.3 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrobenzoyl chloride | 18.9 mmol, 3.50 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | methyl 2-(N-benzyl-4-nitrobenzamido)-2-phenylacetate | 7.37 g, 96% | C(C1=CC=CC=C1)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C(C(=O)OC)C1=CC=CC=C1 | C23H20N2O5
